US04032511
About 40 parts by weight of dry granular sodium metasilicate are added to about 100 parts by weight of water to produce an aqueous solution of sodium silicate. Dilute sulfuric acid is added slowly to the solution of sodium silicate until it forms a gel. The silicic acid gel is then washed with water, filtered, and excess water is pressed out of the silicic acid gel.

reactant | sodium metasilicate | [O-][Si](=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
